US07935707B2
B) [Cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-acetic acid ethyl ester
To a vigorously stirred solution of 4.9 g (34 mmol) of cyclopropylamino-acetic acid ethyl ester in 50 ml of CH2Cl2 and 25 ml of saturated sodium hydrogen carbonate was added a solution of 8.4 g (37 mmol) of 4-(trifluoromethoxy)benzoyl chloride in 10 ml of CH2Cl2 and the reaction stirred for 1 h. The organic phase was then separated, dried with sodium sulfate and concentrated. Purification by flash column chromatography [n-heptane/EtOAc 1:9 to 3:7] afforded 8.9 g (80%) of the title compound as a colorless oil. MS: 332.1 (MH+).

reactant | cyclopropylamino-acetic acid ethyl ester | 34 mmol, 4.9 g | C(C)OC(CNC1CC1)=O | C7H13NO2
reactant | 4-(trifluoromethoxy)benzoyl chloride | 37 mmol, 8.4 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydrogen carbonate | 25 ml | C(O)([O-])=O.[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | [Cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-acetic acid ethyl ester | 8.9 g, 80% | C(C)OC(CN(C(C1=CC=C(C=C1)OC(F)(F)F)=O)C1CC1)=O | C15H16F3NO4
